US04005218
To a stirred solution of 75 parts of potassium hydroxide in 240 parts of methanol, are added 27 parts of 2,4-dichlorobenzeneacetonitrile. Then there is added a solution of 25.5 parts of 1-chloro-4-methyl-3-nitrobenzene in 40 parts of methanol (exothermic reaction: temperature rises to 40° C). Stirring is continued for 2 hours while meantime the mixture is allowed to cool to 20° -25° C. 1000 parts of water are added. Upon the addition of a mixture of acetic acid and water (1:1 by volume), an oil is precipitated. The supernatant aqueous phase is decanted and the oil is taken up in methylbenzene. The solution is evaporated. The oily residue is triturated in a mixture of 2,2'-oxybispropane and petroleumether, yielding 2,4-dichloro-α-[2-chloro-4-(hydroxyimino)-5-methyl-2,5-cyclohexadien-1-ylidene]benzeneacetonitrile.

reactant | potassium hydroxide | [OH-].[K+]
reactant | methanol | CO | CH4O
reactant | 2,4-dichlorobenzeneacetonitrile | ClC1=C(C=CC(=C1)Cl)CC#N | C8H5Cl2N
reactant | 1-chloro-4-methyl-3-nitrobenzene | ClC1=CC(=C(C=C1)C)[N+](=O)[O-] | C7H6ClNO2
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2,4-dichloro-α-[2-chloro-4-(hydroxyimino)-5-methyl-2,5-cyclohexadien-1-ylidene]benzeneacetonitrile | ClC1=C(C=CC(=C1)Cl)C(C#N)=C1C(=CC(C(=C1)C)=NO)Cl | C15H9Cl3N2O
